US07906645B2
N-(3,4-Dichlorophenyl)-4-[(4-ethylpiperazin-2-yl)methyl]piperazine-1-carboxamide
To benzyl 2-[(4-{[(3,4-dichlorophenyl)amino]carbonyl}piperazin-1-yl)methyl]-4-ethylpiperazine-1-carboxylate (20 mg) was added 4M HCl in dioxane (1 ml). The solvent was evaporated, 1-methyl-2-pyrrolidinone (1 ml), zinc bromide (10 mg) and 10% palladium on carbon (50 mg) added and the mixture stirred under hydrogen at RT for 72 hours. Evaporation to dryness and purification on a 10 g SCX2 column, eluting sequentially with ethyl acetate, MeOH and 1% ammonia/MeOH gave the title compound (9 mg, 60%) by precipitation from CH2Cl2 with isohexane.

reactant | benzyl 2-[(4-{[(3,4-dichlorophenyl)amino]carbonyl}piperazin-1-yl)methyl]-4-ethylpiperazine-1-carboxylate | 20 mg | ClC=1C=C(C=CC1Cl)NC(=O)N1CCN(CC1)CC1N(CCN(C1)CC)C(=O)OCC1=CC=CC=C1 | C26H33Cl2N5O3
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | N-(3,4-Dichlorophenyl)-4-[(4-ethylpiperazin-2-yl)methyl]piperazine-1-carboxamide | 9 mg, 60% | ClC=1C=C(C=CC1Cl)NC(=O)N1CCN(CC1)CC1NCCN(C1)CC | C18H27Cl2N5O
